* Analog Signal Conditioning Front End
V1 n1  0   SINE(0 5m 1k)  AC 1
V2 inp n1  SINE(0 3m 50k)
V33 v33 0 DC 3.3

E1 o1 0 inp a 1e6
E2 o2 0 0   b 1e6
Rg  a  b  1k
R1  o1 a  10k
R2  o2 b  10k

R3  o1 m   1k
R4  m  o3  10k
R5  o2 p   1k
R6  p  0   10k
E3 o3 0 p m 1e6

R7  o3 x    22k
R8  x  y    22k
C2  y  0    1n
C1  x  lpf  2n
E4 lpf 0 y lpf 1e6

Cc   lpf adc 1u
Rb1  v33 adc 10k
Rb2  adc 0   10k

;.ac dec 100 1 1Meg
.tran 0 5m 0 1u
.end